US06559145B2
N-(4-Chlorobenzyl)4-hydroxy-1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]thiazine-3-carboxamide 2,2-Dioxide [BS.7]
To a stirring solution of 1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-dioxide (Preparation 35, 0.64 g) and triethylamine (0.27 g) in DMSO (15mL) at ambient temperature is added 4-chloro-benzylisocyanate (0.45 g). The resulting red solution is stirred overnight at ambient temperature and diluted with 10% aqueous HCl (20 mL). The aqueous layer is extracted with EtOAc (3×25 ml). The combined organic layers are dried over MgSO4 and concentrated in vacuo. The residue is dissolved in EtOAc (15 mL) and allowed to stand at ambient temperature overnight. The resulting solid is collected by filtration, washed with EtOAc (10 ml) and dried in vacuo at 50° C. to afford 0.29 g (31%) of the title compound as a tan solid. Physical characteristics: 1H NMR (CDCl3) δ 1.58-1.82, 3.49, 3.60, 3.89, 4.50, 4.56, 4.86, 7.30, 7.42, 7.71, 15.62; IR (diffuse reflectance) 3353, 2945, 1615, 1581, 1541, 1493, 1431, 1366, 1345, 1308, 1296, 1276, 1183, 1119, 1031 cm−1; MS (EI) m/z 522 (M+). Anal. Found: C, 53.17; H, 4.49; N, 5.67.

reactant | 1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]thiazin-4(3H)-one 2,2-dioxide | 0.64 g | CN1S(CC(C2=C1SC(=C2)C#CCOC2OCCCC2)=O)(=O)=O | C15H17NO5S2
reactant | triethylamine | 0.27 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-benzylisocyanate | 0.45 g | ClC1=CC=C(CN=C=O)C=C1 | C8H6ClNO
solvent | DMSO | 15mL | CS(=O)C | C2H6OS
solvent | HCl | 20 mL | Cl | ClH
product | N-(4-Chlorobenzyl)4-hydroxy-1-methyl-6-(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)-1H-thieno[2,3-c][1,2]thiazine-3-carboxamide 2,2-Dioxide | 0.29 g, 31% | ClC1=CC=C(CNC(=O)C2=C(C3=C(N(S2(=O)=O)C)SC(=C3)C#CCOC3OCCCC3)O)C=C1 | C23H23ClN2O6S2
